US04000275
6-(n-Dodecyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with benzimidazo[2,1-b]quinazolin-12(6H)one and n-dodecyl bromide.

reactant | benzimidazo[2,1-b]quinazolin-12(6H)one | C1=C2C(N3C(=NC2=CC=C1)NC1=C3C=CC=C1)=O | C14H9N3O
reactant | n-dodecyl bromide | C(CCCCCCCCCCC)Br | C12H25Br
product | 6-(n-Dodecyl)benzimidazo[2,1-b]quinazolin-12(6H)one | C(CCCCCCCCCCC)N1C2=C(C=CC=C2)N2C1=NC1=CC=CC=C1C2=O | C26H33N3O
